US08211908B2
To a solution of 0.48 g of tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(7-fluoro-6-methyl-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate in 4.7 mL of isopropyl alcohol, 0.44 mL of concentrated hydrochloric acid was added, the temperature was increased to 60° C. and the mixture was stirred for 3 hours. The reaction mixture was cooled to room temperature, and the solid was filtered off to obtain 0.33 g of 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-6-methyl-1,5-naphthyridin-2(1H)-one hydrochloride as a white solid.

reactant | tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(7-fluoro-6-methyl-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate | 0.48 g | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C(C=CC1=NC(=C(C=C21)F)C)=O | C29H36FN5O5
reactant | hydrochloric acid | 0.44 mL | Cl | ClH
solvent | isopropyl alcohol | 4.7 mL | C(C)(C)O | C3H8O
product | 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-6-methyl-1,5-naphthyridin-2(1H)-one hydrochloride | 0.33 g | Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC1=NC(=C(C=C21)F)C)=O | InChI=1S/C24H28FN5O3.ClH/c1-16-19(25)13-21-20(28-16)2-3-24(31)30(21)9-8-29-6-4-17(5-7-29)26-14-18-12-22-23(15-27-18)33-11-10-32-22;/h2-3,12-13,15,17,26H,4-11,14H2,1H3;1H
